US07429609B2
Cyclopropane carboxylic acid[3-(naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-yl]amide
20 mg of 3-(naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-ylamine was dissolved in 3 mL of toluene, and added with 20 μl of triethylamine and 10 μl of cyclopropanecarbonyl chloride at room temperature and stirred all day and night. The reaction solution was added with saturated aqueous sodium hydrogen carbonate, extracted with sodium acetate, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4), to afford 20 mg of the title compound as a colorless powder.

reactant | 3-(naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-ylamine | 20 mg | C1=C(C=CC2=CC=CC=C12)C1=NN(C=2C1=NC(=CC2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H26N4
reactant | triethylamine | 20 μl | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 10 μl | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Cyclopropane carboxylic acid[3-(naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-yl]amide | 20 mg | C1=C(C=CC2=CC=CC=C12)C1=NN(C=2C1=NC(=CC2)NC(=O)C2CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H30N4O
